US08859611B2
Step 6 of General Scheme III: Synthesis of 3-(4-(4-carbamoyl-2-methylphenyl)-5-(4-methoxyphenyl)thiophen-3-yl)propanoic acid
To a solution of 3-(4-(4-cyano-2-methylphenyl)-5-(4-methoxyphenyl)thiophen-3-yl)propanoic acid (30 mg, 0.08 mmol) in DMSO (5 mL) was added NaOH (6 mg, 0.16 mmol), and 30% H2O2 (9 mg, 0.08 mmol). The mixture was stirred at room temperature for 2 h, and purified by preparative HPLC to give 16 mg of the title compound, Example 14 (Scheme III, 17, X1=4-carbamoyl-2-methylphenyl, X2=4-methoxyphenyl) (yield 52%) as a white solid. 1H NMR (CD3OD 400 MHz TMS): δ7.72 (s, 2H), 7.26 (d, J=8.4 Hz, 1H), 7.14 (s, 1H), 7.04 (d, J=8.8 Hz, 2H), 6.70 (d, J=8.4 Hz, 2H), 3.70 (s, 3H), 2.57 (t, J=7.2 Hz, 2H), 2.38 (t, J=8.0 Hz, 2H), 1.96 (s, 3H); MS (ESI): m/z 317.9 [M+23]+.

reactant | 3-(4-(4-cyano-2-methylphenyl)-5-(4-methoxyphenyl)thiophen-3-yl)propanoic acid | 0.08 mmol, 30 mg | C(#N)C1=CC(=C(C=C1)C=1C(=CSC1C1=CC=C(C=C1)OC)CCC(=O)O)C | C22H19NO3S
reactant | NaOH | 0.16 mmol, 6 mg | [OH-].[Na+]
reactant | H2O2 | 0.08 mmol, 9 mg | OO | H2O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 3-(4-(4-carbamoyl-2-methylphenyl)-5-(4-methoxyphenyl)thiophen-3-yl)propanoic acid | 16 mg, yield 52% | C(N)(=O)C1=CC(=C(C=C1)C=1C(=CSC1C1=CC=C(C=C1)OC)CCC(=O)O)C | C22H21NO4S
